US07314888B1
In 2.5 ml of methylene chloride is dissolved 0.25 g of 3-isobutoxy-4-[4-isobutoxy-3-(3-methoxy-3-oxopropyl)benzoyl]benzoic acid. At ambient temperature, 60 μl of oxalyl chloride is added and then 20 μl of N,N-dimethylformamide is added, and the mixture thus obtained is stirred at ambient temperature for one hour. The reaction mixture is cooled with ice water, 0.12 ml of isopropylamine is dropwise added thereto, and the mixture thus obtained is stirred at ambient temperature for one hour. Ethyl acetate and water are added to the reaction mixture, pH is adjusted to 2 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure to obtain 0.12 g of methyl 3-(2-isobutoxy-5-{2-isobutoxy-4-[(isopropylamino)carbonyl]benzoyl}-phenyl)propanoate as a white solid product.

reactant | 3-isobutoxy-4-[4-isobutoxy-3-(3-methoxy-3-oxopropyl)benzoyl]benzoic acid | 0.25 g | C(C(C)C)OC=1C=C(C(=O)O)C=CC1C(C1=CC(=C(C=C1)OCC(C)C)CCC(=O)OC)=O | C26H32O7
reactant | oxalyl chloride | 60 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isopropylamine | 0.12 ml | C(C)(C)N | C3H9N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 μl | CN(C=O)C | C3H7NO
product | methyl 3-(2-isobutoxy-5-{2-isobutoxy-4-[(isopropylamino)carbonyl]benzoyl}-phenyl)propanoate | 0.12 g | C(C(C)C)OC1=C(C=C(C=C1)C(C1=C(C=C(C=C1)C(=O)NC(C)C)OCC(C)C)=O)CCC(=O)OC | C29H39NO6
